US05055468
11-Bromomethyl-9,10-dihydro-9,10-ethanoanthracene
9,10-Dihydro-9,10-ethanoanthracene-11-methanol (2 gm) was combined with triphenylphosphine dibromide (5.3 gm) in carbon tetrachloride (60 ml). The mixture was heated to reflux 1 hour, filtered, and the filtrate was concentrated on a rotary evaporator. The residue was boiled in n-heptane (75 ml), filtered hot, and the filtrate cooled. The white precipitate was filtered and air dried to provide the product (mp=103-106° C.).

reactant | 9,10-Dihydro-9,10-ethanoanthracene-11-methanol | 2 gm | C1=CC=CC=2C3C4=CC=CC=C4C(C12)CC3CO | C17H16O
reactant | triphenylphosphine dibromide | 5.3 gm | [Br-].[Br-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 11-Bromomethyl-9,10-dihydro-9,10-ethanoanthracene | BrCC1CC2C3=CC=CC=C3C1C=1C=CC=CC21 | C17H15Br
